US05571809
6,11-Dihydro-6,8,9-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
To a stirred suspension of 4.55 g (0.019mol) of 6,11-dihydro-8,9-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one in 40 ml of dimethylsulfoxide was added 3.0 ml of a 30% NaOH solution (0.022 mol). After two hours at room temperature 5.0 ml (0.08 mol) of methyl iodide was added and the mixture stirred at room temperature overnight. It was then poured into water, the resulting precipitate collected, washed, dried and crystallized from ethanol to yield 3.3 g (69% of theory) of a crystallized solid melting at 206°-209° C.

reactant | 6,11-dihydro-8,9-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.019mol, 4.55 g | CC=1C(=CC2=C(NC(C3=C(N2)N=CC=C3)=O)C1)C | C14H13N3O
reactant | NaOH | 0.022 mol | [OH-].[Na+]
reactant | methyl iodide | 0.08 mol, 5.0 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 6,11-Dihydro-6,8,9-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | CN1C(C2=C(NC3=C1C=C(C(=C3)C)C)N=CC=C2)=O | C15H15N3O
